US06218392B1
1,6-Dichloro-4-(3-pyridylmethyl)phthalazine
6-Chloro-4-(3-pyridylmethyl)-1(2H)-phthalazinone (0.86 g) was suspended in 10 ml of phosphorus oxychloride. The obtained suspension was heated under reflux for 2 hours and freed from the phosphorus oxychloride by vacuum distillation. The residue was dissolved in tetrahydrofuran. The obtained solution was neutralized with triethylamine, followed by the addition of water. The obtained mixture was extracted with ethyl acetate. The organic phase was washed with water and a saturated aqueous solution of common salt, dried over anhydrous magnesium sulfate and freed from the solvent by vacuum distillation. The residue was purified by silica gel column chromatography to give 0.49 g of the title compound as a pale yellow crystal.

reactant | 6-Chloro-4-(3-pyridylmethyl)-1(2H)-phthalazinone | 0.86 g | ClC=1C=C2C(=NNC(C2=CC1)=O)CC=1C=NC=CC1 | C14H10ClN3O
reactant | phosphorus oxychloride | 10 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 1,6-Dichloro-4-(3-pyridylmethyl)phthalazine | 0.49 g | ClC1=NN=C(C2=CC(=CC=C12)Cl)CC=1C=NC=CC1 | C14H9Cl2N3
